US05036066
be) from 5,6-dihydro-3-hydroxy-2-phenylthiazolo[2,3-a]isoquinolinium hydroxide (internal salt) and phenylvinyl sulfoxide in xylene there was obtained 6,7-dihydro-3-phenyl-4H-benzo[a]quinolizine-4-one of m.p. 139.5°-140.5° (from acetonitrile):

reactant | 5,6-dihydro-3-hydroxy-2-phenylthiazolo[2,3-a]isoquinolinium hydroxide | [OH-].OC1=C(SC2=[N+]1CCC1=CC=CC=C21)C2=CC=CC=C2
reactant | phenylvinyl sulfoxide | C1(=CC=CC=C1)S(=O)C=C | C8H8OS
reactant | acetonitrile | C(C)#N | C2H3N
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 6,7-dihydro-3-phenyl-4H-benzo[a]quinolizine-4-one | C1(=CC=CC=C1)C=1C(N2CCC3=C(C2=CC1)C=CC=C3)=O | C19H15NO
